US04792562
N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)carbamic acid ethyl ester
To a solution containing 9 g of N-(1H-pyrrol-1-yl)-4-pyridinamine and 15 g of sodium bicarbonate in 350 ml of dichloromethane was added a solution containing 6.7 g of ethyl chloroformate in 50 ml of dichloromethane.

reactant | N-(1H-pyrrol-1-yl)-4-pyridinamine | 9 g | N1(C=CC=C1)NC1=CC=NC=C1 | C9H9N3
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 6.7 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)carbamic acid ethyl ester | C(C)OC(N(N1C=CC=C1)C1=CC=NC=C1)=O | C12H13N3O2
